US08486952B2
To a solution of 2-chloro-N-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (154 mg, 0.535 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (114 mg, 0.508 mmol) in DMF (2.5 mL) was added Conc. H2SO4 (0.040 mL, 0.749 mmol). The mixture was stirred at 94° C. for 20 hrs. After cooled down to room temperature, 100 mL of EtOAc was added, washed with saturated NaHCO3/H2O, dried over Na2SO4, and removed. The residue was purified via Biotage (12 g, hexanes-100% EtOAC) to give N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine (120 mg, 0.253 mmol, 47.2% yield). LC-MS (M+H)+=475.2. 1H NMR (500 MHz, CDCl3) δ ppm 7.92 (1H, d, J=2.1 Hz), 7.51 (1H, d, J=1.5 Hz), 7.31 (2H, d, J=7.3 Hz), 7.22-7.25 (2H, m), 7.22 (1H, s), 7.08 (1H, s), 7.04 (1H, d, J=8.5 Hz), 7.01 (1H, d, J=1.5 Hz), 6.74 (1H, dd, J=8.4, 2.3 Hz), 4.38-4.46 (1H, m), 4.33 (1H, d, J=7.9 Hz), 4.18-4.24 (1H, m), 3.49 (3H, s), 2.72-2.80 (1H, m), 2.61-2.71 (2H, m), 2.07-2.14 (1H, m), 1.33 (6H, t, J=6.6 Hz).

reactant | 2-chloro-N-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.535 mmol, 154 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC(C)C | C16H18ClN3
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | 0.508 mmol, 114 mg | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
reactant | H2SO4 | 0.749 mmol, 0.040 mL | OS(=O)(=O)O | H2O4S
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | N2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenyl)-N4-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.253 mmol, 120 mg, 47.2% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC(C)C)OC | C26H27ClN6O
